US09353288B2
The 18-phenyl octadecyl triethoxysilane obtained was subjected to alcohol exchange reaction in methanol having a small quantity of hydrochloric acid dissolved therein to obtain 6.5 g of 18-phenyl octadecyl trimethoxysilane. The purity by HPLC was 89.4%.

reactant | 18-phenyl octadecyl triethoxysilane | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCC[Si](OCC)(OCC)OCC | C30H56O3Si
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 18-phenyl octadecyl trimethoxysilane | 6.5 g | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCC[Si](OC)(OC)OC | C27H50O3Si
